US08138205B2
A mixture of 4-(3,5-dimethylpyridin-4-ylamino)-8-hydroxy-7-methoxyquinolin-2(1H)-one (1.46 g, 4.7 mmol), cesium carbonate (1.83 g, 5.6 mmol), and DMSO (15 mL) was stirred at room temperature for 15min, and then 1-bromo-6-chlorohexane (0.83 mL, 5.6 mmol) was added. After 45 min, the reaction was diluted with ethyl acetate, washed with water (×3), dried, filtered, concentrated, and then triturated with hexane/diethyl ether to remove the excess 1-bromo-6-chlorohexane. The solid residue was purified by silica gel chromatography (49:1→23:2; dichloromethane/methanol) to give 8-(6-chlorohexyloxy)-4-(3,5-dimethylpyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one. 1H NMR (400 MHz, CDCl3): δ 8.59 (s, 1H), 8.38 (s, 2H), 7.42 (d, 1H), 6.90 (d, 1H), 6.05 (s, 1H), 5.13 (d, 1H), 4.12 (t, 2H), 3.97 (s, 3H), 3.56 (t, 2H), 2.21 (s, 6H), 1.82 (m, 4H), 1.52 (m, 4H); MS (ESI): 430.3.

reactant | 4-(3,5-dimethylpyridin-4-ylamino)-8-hydroxy-7-methoxyquinolin-2(1H)-one | 4.7 mmol, 1.46 g | CC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)O)=O)C | C17H17N3O3
reactant | cesium carbonate | 5.6 mmol, 1.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 15 mL | CS(=O)C | C2H6OS
reactant | 1-bromo-6-chlorohexane | 5.6 mmol, 0.83 mL | BrCCCCCCCl | C6H12BrCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(6-chlorohexyloxy)-4-(3,5-dimethylpyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one | ClCCCCCCOC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1C)C)OC | C23H28ClN3O3
